US06649600B1
4-(7-Benzyl-2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid.
To a stirred solution of 4-[(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-benzyl-carbamoyl]-bicyclo[2.2.2]octane-1-carboxylic acid methyl ester (430 mg, 0.843 mmol) in i-PrOH (20 ml) was added 2 N KOH (4.0 eq, 3.37 mmol, 1.7 ml) and the resulting mixture was heated at reflux for 26 h. The cool reaction mixture was concentrated in vacuo to give a semi-solid residue that was diluted with water and extracted with CHCl3. The aqueous phase was acidified with concentrated HCl to afford a white precipitate that was collected and dried (381 mg, 91%). MS: 479 (MH+).

reactant | 4-[(6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-benzyl-carbamoyl]-bicyclo[2.2.2]octane-1-carboxylic acid methyl ester | 0.843 mmol, 430 mg | COC(=O)C12CCC(CC1)(CC2)C(N(CC2=CC=CC=C2)C=2C(N(C(N(C2N)CCC)=O)CCC)=O)=O | C28H38N4O5
reactant | KOH | 3.37 mmol, 2 N, 1.7 ml, 4.0 eq | [OH-].[K+]
solvent | i-PrOH | 20 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 4-(7-Benzyl-2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carboxylic acid | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)C12CCC(CC1)(CC2)C(=O)O | C27H34N4O4
